US07091227B2
1 (6-(3-(3-Methylphenyl)aminocarbonylamino-propanoyl)-2-benzothiazolyl)-3-ethylurea
Similar to the synthesis of Example 249, a mixture of 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea, triethylamine and 3-methylphenhyl isocyanate in DMF was reacted to give the desired compound 0.021 g (25%). LC/MS 426.1 (M+1); LC retention time 2.94 min.

reactant | 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea | NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C13H16N4O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isocyanate | [N-]=C=O
solvent | DMF | CN(C)C=O | C3H7NO
product | (6-(3-(3-Methylphenyl)aminocarbonylamino-propanoyl)-2-benzothiazolyl)-3-ethylurea | 0.021 g, 25% | CC=1C=C(C=CC1)NC(=O)NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C21H23N5O3S
